US06462092B1
To a solution of methyl 3-[[(3-phenoxyphenyl)(3,3,3-trifluoro-2-hydroxy-propyl)amino]methyl]benzoate (197 mg, 0.00044 mol) in 2.0 mL of dichloromethane at −40° C. was slowly added a 1.0 M solution of lithium aluminum hydride in THF (1.1 mL, 0.0011 mol). The reaction mixture was stirred at −40° C. for 1 h, then diluted with ethyl acetate and quenched with water. The organic layer was dried over MgSO4 and concentrated in vacuo. The crude material was determined to contain a significant amount of unreacted starting material by HPLC at this stage. The crude material was resubjected to the reaction conditions using 2 mL of anhydrous tetrahydrofuran and 1.0 M lithium aluminum hydride (1.3 mL, 0.0013 mol) at −40° C. for 1 h, then diluted with ethyl acetate and quenched with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried over MgSO4 and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with 2:3 ethyl acetate:hexane to afford 99 mg (54%) of the desired 3-[[(3-phenoxyphenyl)-(3,3,3-trifluoro-2-hydroxypropyl)amino]methyl]benzenemethanol product as a white solid. Anal. calcd. for C23H22F3NO3: C, 66.18; H, 5.31; N, 3.36. Found: C, 65.98; H, 5.39; N, 3.22. HRMS calcd. 418.1630 [M+H]+, found: 418.1636. 1H NMR (C6D6) δ 7.08-6.92 (m, 8H), 6.89-6.80 (m, 2H), 6.56 (s, 1H), 6.46 (d, 1H), 6.38 (d, 1H), 4.26 (s, 2H), 4.21 (d, 2H), 3.77 (appq, 1H), 3.52 (d, 1H), 1.92 (bs, 1H), 0.96 (bs, 1H). 19F NMR (C6D6) δ −78.91 (d, 3F).

reactant | methyl 3-[[(3-phenoxyphenyl)(3,3,3-trifluoro-2-hydroxy-propyl)amino]methyl]benzoate | 0.00044 mol, 197 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC=1C=C(C(=O)OC)C=CC1 | C24H22F3NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 0.0011 mol, 1.1 mL | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.0013 mol, 1.0 M, 1.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[(3-phenoxyphenyl)-(3,3,3-trifluoro-2-hydroxypropyl)amino]methyl]benzenemethanol | 99 mg, 54% | O(C1=CC=CC=C1)C=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC=1C=C(C=CC1)CO | C23H22F3NO3
